US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-4,9-diphenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
A mixture of 9-bromo-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (9.0 mg, 0.021 mmol), phenylboronic acid (3.1 mg, 0.025 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with DCM (1:1) (0.9 mg, 0.001 mmol) and potassium carbonate (8.8 mg, 0.063 mmol) in 1,4-dioxane (0.1 mL), and water (0.07 mL) was heated at 80° C. for 3 h. The reaction mixture was diluted with MeOH and purified on by preparative LCMS using a pH 10 buffer to give the title compound. LCMS calc. for C26H22N3O3 (M+H)+: m/z=424.2. found: 424.0.

reactant | 9-bromo-7-(3,5-dimethylisoxazol-4-yl)-4-phenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 0.021 mmol, 9.0 mg | BrC=1C=C(C2=C3N(C(CO2)C2=CC=CC=C2)C(NC13)=O)C=1C(=NOC1C)C | C20H16BrN3O3
reactant | phenylboronic acid | 0.025 mmol, 3.1 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | DCM | 0.001 mmol, 0.9 mg | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | 0.063 mmol, 8.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.1 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.07 mL | O | H2O
product | 7-(3,5-Dimethylisoxazol-4-yl)-4,9-diphenyl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | CC1=NOC(=C1C1=CC(=C2C=3N(C(COC31)C3=CC=CC=C3)C(N2)=O)C2=CC=CC=C2)C | C26H21N3O3
